transistor-level CMOS one-bit half-adder
* ngspice 46 operating points (low <= 0.5 V, high >= 4.5 V):
* a=0 b=0: sum=12.525n, carry=12.525n
* a=0 b=5: sum=5,       carry=12.525n
* a=5 b=0: sum=5,       carry=12.525n
* a=5 b=5: sum=12.525n, carry=5
* Reusable six-transistor AND: NAND followed by an inverter.
.subckt and2 a b out vdd
mpa nand a vdd vdd pmod
mpb nand b vdd vdd pmod
mna nand a nseries 0 nmod
mnb nseries b 0 0 nmod
mpinv out nand vdd vdd pmod
mninv out nand 0 0 nmod
.ends and2
* Reusable six-transistor OR: NOR followed by an inverter.
.subckt or2 a b out vdd
mpa pseries a vdd vdd pmod
mpb nor b pseries vdd pmod
mna nor a 0 0 nmod
mnb nor b 0 0 nmod
mpinv out nor vdd vdd pmod
mninv out nor 0 0 nmod
.ends or2
* Reusable CMOS inverter.
.subckt inv input out vdd
mp out input vdd vdd pmod
mn out input 0 0 nmod
.ends inv
* carry = a AND b
xcarry a b carry vdd and2
* sum = (a OR b) AND NOT(carry)
xany a b any vdd or2
xnotcarry carry ncarry vdd inv
xsum any ncarry sum vdd and2
vddsrc vdd 0 dc 5
va a 0 dc 0
vb b 0 dc 0
.model nmod nmos (level=1 vto=1 kp=100u lambda=0)
.model pmod pmos (level=1 vto=-1 kp=50u lambda=0)
.op
.end
